US08809538B2
tert-butyl 4-{[(4-chloro-3-methoxybenzoyl)amino]methyl}-1-piperidinecarboxylate
1-Ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (2.26 g) and diisopropylethylamine (2.05 mL) were added to a room temperature solution of 4-chloro-3-methoxybenzoic acid (2.00 g) and 1-hydroxybenzotriazole hydrate (1.81 g) in dichloromethane (53 mL). After the reaction was stirred for five minutes, tert-butyl 4-(aminomethyl)piperidine-1-carboxylate (2.53 g) was added and the mixture was stirred overnight. The reaction was then partitioned between 1 N hydrochloric acid and dichloromethane. The organic layer was separated, dried over anhydrous magnesium sulfate and concentrated and purified by column chromatography on silica gel (dichloromethane:methanol=19:1). The resulting residue was triturated in diethyl ether and the solids were collected by filtration to obtain the title compound (3.56 g) having the following physical data. 1H NMR (DMSO-d6): δ 8.60 (t, J=5.7 Hz, 1H), 7.61-7.39 (m, 3H), 3.91 (m, 5H), 3.15 (t, J=6.0 Hz, 2H), 2.81-2.62 (m, 2H), 1.72-1.51 (m, 3H), 1.39 (s, 9H), 1.12-0.92 (m, 2H)+;

reactant | 1-Ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 2.26 g | Cl.C(C)N=C=NCCCN(C)C
reactant | diisopropylethylamine | 2.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-chloro-3-methoxybenzoic acid | 2.00 g | ClC1=C(C=C(C(=O)O)C=C1)OC | C8H7ClO3
reactant | 1-hydroxybenzotriazole hydrate | 1.81 g | O.ON1N=NC2=C1C=CC=C2
reactant | tert-butyl 4-(aminomethyl)piperidine-1-carboxylate | 2.53 g | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
solvent | dichloromethane | 53 mL | ClCCl | CH2Cl2
product | tert-butyl 4-{[(4-chloro-3-methoxybenzoyl)amino]methyl}-1-piperidinecarboxylate | 3.56 g | ClC1=C(C=C(C(=O)NCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)OC | C19H27ClN2O4
